### PR TITLE
[Merged by Bors] - feat(LinearPMap): more lemmas about `supSpanSingleton`

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/LinearPMap.lean [hunk 1]
```diff
@@ -531,6 +531,29 @@ theorem supSpanSingleton_apply_mk (f : E →ₗ.[K] F) (x : E) (y : F) (hx : x 
   · exact mem_span_singleton.2 ⟨c, rfl⟩
   · rfl
 
+@[simp]
+theorem supSpanSingleton_apply_smul_self (f : E →ₗ.[K] F) {x : E} (y : F) (hx : x ∉ f.domain)
+    (c : K) :
+    f.supSpanSingleton x y hx
+      ⟨c • x, SetLike.le_def.mp le_sup_right <| mem_span_singleton.2 ⟨c, rfl⟩⟩ = c • y := by
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/LinearPMap.lean:538]: Is this not just:
```suggestion
      ⟨c • x, Submodule.mem_sup_right <| mem_span_singleton.2 ⟨c, rfl⟩⟩ = c • y := by
```


(also below)

**Review by Vierkantor — COMMENTED** [review]
I don't really understand the PR description: which `erw` did you remove?

**Comment by urkud** [comment]
> I don't really understand the PR description: which `erw` did you remove?

While the PR was awaiting review, the same erw was removed by someone else.

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors r+
